US08859574B2
To 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine (30 mg, 0.072 mmol) in MeOH (1 mL) was added 3-bromothietane 1,1-dioxide (15 mg, 0.079 mmol) followed by TEA (15 mg). The resulting mixture was stirred at room temperature for 5 hr and then concentrated. The resulting residue was purified by preparative RP-HPLC to provide 5-chloro-N2-(2-fluoro-5-methyl-4-(1-(1,1-dioxido-3-thietanyl)piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine. 1H NMR (400 MHz, DMSO-d6+1 drop D2O) δ 8.02 (s, 1H), 7.37 (s, 1H), 7.02 (s, 1H), 6.23 (s, 1H), 4.28-4.22 (m, 2H), 4.12-4.07 (m, 2H), 3.22-3.18 (m, 1H), 2.95-2.92 (m, 2H), 2.68-2.62 (m, 1H), 2.22 (s, 3H), 2.13 (s, 3H), 2.07-2.01 (m, 2H), 1.71-1.55 (m, 4H). ESMS m/z 520.2 (M+H+).

reactant | 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | 0.072 mmol, 30 mg | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCNCC1)F)NC1=NNC(=C1)C | C20H23ClFN7
reactant | 3-bromothietane 1,1-dioxide | 0.079 mmol, 15 mg | BrC1CS(C1)(=O)=O | C3H5BrO2S
solvent | MeOH | 1 mL | CO | CH4O
product | 5-chloro-N2-(2-fluoro-5-methyl-4-(1-(1,1-dioxido-3-thietanyl)piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCN(CC1)C1CS(C1)(=O)=O)F)NC1=NNC(=C1)C | C23H27ClFN7O2S
